US08097759B2
3,5-Bis(trifluoromethyl)-N-(2-hydroxyphenyl)benzamide (Compound No. 11)
2-Aminophenol (120 mg, 1.1 mmol) was dissolved in dichloromethane (5 mL). A solution of 3,5-bis(trifluoromethyl)benzoyl chloride (300 mg, 1.1 mmol) in dichloromethane (3 mL) and pyridine (0.5 mL) was added dropwise under ice cooling and argon atmosphere, and the mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into 2 N hydrochloric acid and extracted with ethyl acetate. After the ethyl acetate layer was washed with water and brine one after another, dried over anhydrous magnesium sulfate, the solvent was evaporated under reduced pressure. The obtained residue was dissolved in ethanol (5 mL), added dropwise 2 N sodium hydroxide (0.1 mL, 0.2 mmol), and stirred at room temperature for 30 minutes. The reaction mixture was poured into 2 N hydrochloric acid and extracted with ethyl acetate. After the ethyl acetate layer was washed with water and brine one after another, dried over anhydrous sodium sulfate, the solvent was evaporated under reduced pressure. The obtained residue was purified by column chromatography on silica gel (n-hexane:ethyl acetate=4:1) to give the title compound (288 mg, 73.6%) as a light pink crystal.

reactant | 2-Aminophenol | 1.1 mmol, 120 mg | NC1=C(C=CC=C1)O | C6H7NO
reactant | 3,5-bis(trifluoromethyl)benzoyl chloride | 1.1 mmol, 300 mg | FC(C=1C=C(C(=O)Cl)C=C(C1)C(F)(F)F)(F)F | C9H3ClF6O
reactant | hydrochloric acid | 2 N | Cl | ClH
reactant | sodium hydroxide | 0.2 mmol, 2 N, 0.1 mL | [OH-].[Na+]
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | pyridine | 0.5 mL | N1=CC=CC=C1 | C5H5N
product | 3,5-Bis(trifluoromethyl)-N-(2-hydroxyphenyl)benzamide | 288 mg, 73.6% | FC(C=1C=C(C(=O)NC2=C(C=CC=C2)O)C=C(C1)C(F)(F)F)(F)F | C15H9F6NO2
